US04777172
A mixture of 2-chloromethyl-4-piperidino-pyrimidine (2.89 g) and 2-mercapto-5-methoxybenzimidazole (2.46 g) in ethanol (40 ml) and 1N sodium hydroxide (15 ml) was stirred at room temperature for 16 hours. After stripping the residue was washed with water and recrystallised from acetonitrile to give 5-methoxy-2-(4-piperidino-2-pyrimidinylmethylthio)-(1H)-benzimidazole (3.5 g) m.p. 145°-147°.

reactant | 2-chloromethyl-4-piperidino-pyrimidine | 2.89 g | ClCC1=NC=CC(=N1)N1CCCCC1 | C10H14ClN3
reactant | 2-mercapto-5-methoxybenzimidazole | 2.46 g | SC=1NC2=C(N1)C=CC(=C2)OC | C8H8N2OS
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
product | 5-methoxy-2-(4-piperidino-2-pyrimidinylmethylthio)-(1H)-benzimidazole | 3.5 g | COC1=CC2=C(NC(=N2)SCC2=NC=CC(=N2)N2CCCCC2)C=C1 | C18H21N5OS
